US05218109
In 5 ml of acetone was dissolved 120 mg of 1α,3β-bis(methoxycarbonyloxy)pregna-5,7-diene-20-carbaldehyde and the solution was stirred with ice-cooling. Then, Jones' reagent prepared by mixing chromic acid with concentrated sulfuric acid and diluting the mixture with water in accordance with the method of K. Bowden et al. (J. Chem. Soc., p. 39, (1946)) was added dropwise to the above solution until the red color of the reagent would be persistent. After the excess reagent was decomposed with isopropyl alcohol, the reaction mixture was concentrated under reduced pressure. The residue was diluted with water and extracted with diethyl ether. The extract was washed with water, dried over magnesium sulfate and concentrated to give 85 mg of 1α,3β-bis(methoxycarbonyloxy)pregna-5,7-diene-20-carboxylic acid.

reactant | 1α,3β-bis(methoxycarbonyloxy)pregna-5,7-diene-20-carbaldehyde | 120 mg | COC(=O)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H](C(C)C=O)[C@]4(CC[C@@H]3[C@@]12C)C)OC(=O)OC | C26H36O7
reactant | Jones' reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | chromic acid | [Cr](=O)(=O)(O)O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 1α,3β-bis(methoxycarbonyloxy)pregna-5,7-diene-20-carboxylic acid | 85 mg | COC(=O)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H](C(C)C(=O)O)[C@]4(CC[C@@H]3[C@@]12C)C)OC(=O)OC | C26H36O8
